US07153997B2
To a solution of methyl[3,5-dibromo-4-(3-isopropyl-4-methoxyphenoxy)phenyl]acetate (1.0 g, 2.12 mmol) in benzene (150 mL), nitric acid (0.81 mL, 65%) was added drop-wise. The mixture was further stirred for 1 hour at room temperature. The reaction was monitored by TLC (65:35 n-heptane/ethyl acetate) and the reaction mixture was quenched with a saturated aqueous solution of sodium hydrogen carbonate. The resulting organic and aqueous phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phase was washed with water, brine, and the organic phase was dried over magnesium sulfate, and concentrated. The crude product was crystallized from methanol to give 1.1 g, (99%) of methyl[3,5-dibromo-4-(5-isopropyl-4-methoxy-3-nitrophenoxy)phenyl]acetate.

reactant | methyl[3,5-dibromo-4-(3-isopropyl-4-methoxyphenoxy)phenyl]acetate | 2.12 mmol, 1.0 g | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C=C1)OC)C(C)C)Br)=O | C19H20Br2O4
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
reactant | nitric acid | 0.81 mL | [N+](=O)(O)[O-] | HNO3
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | methyl[3,5-dibromo-4-(5-isopropyl-4-methoxy-3-nitrophenoxy)phenyl]acetate | 99% | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)OC)[N+](=O)[O-])Br)=O | C19H19Br2NO6
